US05403842
8-carboxymethyl-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran (Intermediate XLVII)
4.5 g of potassium permanganate was added portionwise within 1.5 hours under stirring at 0°-10° C., to a mixture of 2.76 g of 8-allyl-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran (P. Da Re, U.S. Pat. No. 3,350,411), 0.17 g of Aliquat 336, 1.12 ml of acetic acid, 56 ml of dichloromethane, 3.2 ml of sulfuric acid (d=1.84) and 60 ml of water. Stirring was continued at room temperature for 5 hours. 3.4 g of sodium metabisulfite were added portionwise at 0°-5° C. within 15 minutes. The organic layer was separated, washed with water and extracted with 60 ml of 1N aqueous sodium hydroxide solution. The aqueous phase was acidified by addition of diluted hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with water, dried on anhydrous sodium sulfate and, after filtration, evaporated to dryness in vacuo. The residue was treated with carbon tetrachloride and the solid was collected by suction to give 1 g of the title compound, m.p. 191°-192° C. (acetonitrile).

reactant | potassium permanganate | 4.5 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 8-allyl-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | 2.76 g | C(C=C)C1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C19H16O2
reactant | sulfuric acid | 3.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium metabisulfite | 3.4 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | water | 60 ml | O | H2O
catalyst | Aliquat 336 | 0.17 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | dichloromethane | 56 ml | ClCCl | CH2Cl2
solvent | acetic acid | 1.12 ml | C(C)(=O)O | C2H4O2
product | 8-carboxymethyl-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | 1 g | C(=O)(O)CC1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C18H14O4
